US09353066B2
A suspension of (3-bromo-5-nitrophenyl)(morpholin-4-yl)methanone (200 mg, 0.635 mmol), phenylboronic acid (101 mg, 0.825 mmol), sodium carbonate (101 mg, 0.952 mmol), tri-o-tolylphosphine (19.32 mg, 0.063 mmol) and palladium(II) acetate in DME (1.02 mL) and water (0.25 mL) was heated to 100° C. for 3 hours, then allowed to cool to room temperature. The mixture was diluted with ethyl acetate (50 mL), filtered through CELITE, and washed with brine (30 mL). The organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexanes) provided morpholin-4-yl(5-nitrobiphenyl-3-yl)methanone as a colorless, viscous oil. 1H NMR (400 MHz, CDCl3) δ 8.53 (t, J=1.6 Hz, 1H), 8.25 (s, 1H), 7.98 (s, 1H), 7.65 (d, J=7.3 Hz, 2H), 7.61-7.43 (m, 3H), 3.69 (dd, J=65.5, 62.1 Hz, 8H).

reactant | (3-bromo-5-nitrophenyl)(morpholin-4-yl)methanone | 0.635 mmol, 200 mg | BrC=1C=C(C=C(C1)[N+](=O)[O-])C(=O)N1CCOCC1 | C11H11BrN2O4
reactant | phenylboronic acid | 0.825 mmol, 101 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.952 mmol, 101 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolylphosphine | 0.063 mmol, 19.32 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | DME | 1.02 mL | COCCOC | C4H10O2
solvent | water | 0.25 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | morpholin-4-yl(5-nitrobiphenyl-3-yl)methanone | N1(CCOCC1)C(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H16N2O4
